US08431607B2
(S)-3-(4-chlorophenyl)-4-(3-(pyrazin-2-yloxy)phenyl)oxazolidin-2-one
Reference: Org Lett 2003, 5(21), 3799. A small reaction tube fitted with a screw cap containing a septum is charged with (S)-3-(4-chlorophenyl)-4-(3-hydroxyphenyl)-oxazolidin-2-one (0.06 mmol), 2-bromopyrazine (0.076 mmol), CuI (0.04 mmol), N,N-dimethylglycine (0.04 mmol), Cs2CO3 (0.13 mmol) and 1,4-dioxane (1 mL) is stirred at 120° C. for 18 h. The reaction mixture is then cooled to room temperature and filtered through a Whatman 0.42 μM filter and purified by preparative HPLC (C-18, 10-90% ACN/water (0.05% TFA)). 1H NMR (CDCl3, 400 MHz) δ 8.41 (d, J=1.2 Hz, 1H), 8.29 (d, J=2.8 Hz, 1H), 8.04 (dd, J=2.8, 1.2 Hz, 1H), 7.43 (t, J=8.0 Hz, 1H), 7.34 (d, J=8.8 Hz, 2H), 7.24 (d, J=8.2 Hz, 2H), 7.12-7.19 (m, 2H), 7.10 (s, 1H), 5.37 (dd, J=8.8, 6.0 Hz, 1H), 4.80 (t, J=8.8 Hz, 1H), 4.26 (dd, J=8.8, 6.0 Hz, 1H); HPLC-MS calculated for C19H14ClN3O3 (M+H+) 368.1, found 368.1.

reactant | (S)-3-(4-chlorophenyl)-4-(3-hydroxyphenyl)-oxazolidin-2-one | 0.06 mmol | ClC1=CC=C(C=C1)N1C(OC[C@@H]1C1=CC(=CC=C1)O)=O | C15H12ClNO3
reactant | 2-bromopyrazine | 0.076 mmol | BrC1=NC=CN=C1 | C4H3BrN2
reactant | N,N-dimethylglycine | 0.04 mmol | CN(CC(=O)O)C | C4H9NO2
reactant | Cs2CO3 | 0.13 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | CuI | 0.04 mmol | [Cu]I
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-chlorophenyl)-4-(3-(pyrazin-2-yloxy)phenyl)oxazolidin-2-one | ClC1=CC=C(C=C1)N1C(OC[C@@H]1C1=CC(=CC=C1)OC1=NC=CN=C1)=O | C19H14ClN3O3
